US06114363
Stage 3: 2-hydroxy-6-acetylpyridine:
48.5 g of 2-ethoxy-6-acetylpyridine were introduced into 145 ml of hydrogen bromide solution (30 percent strength solution in glacial acetic acid) and the mixture was heated to 95° C. A further 176 ml of hydrogen bromide solution (30% strength solution in glacial acetic acid) were added dropwise at this temperature. The mixture was stirred for 3 hours at 95° C. and then cooled to room temperature. It was poured into ice-water and neutralized to pH 7 using 50 percent strength aqueous sodium hydroxide solution. The mixture was subsequently extracted 3 times with methyl tert-butyl ether. The aqueous phase was concentrated. The residue which remained was stirred 4 times with acetone. After the combined acetone phases had been concentrated, there remained 38.5 g of 2-hydroxy-6-acetylpyridine as a colorless solid (m.p.: 115-117 C).

reactant | 2-ethoxy-6-acetylpyridine | 48.5 g | C(C)OC1=NC(=CC=C1)C(C)=O | C9H11NO2
reactant | hydrogen bromide | 145 ml | Br | BrH
reactant | hydrogen bromide | 176 ml | Br | BrH
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-hydroxy-6-acetylpyridine | OC1=NC(=CC=C1)C(C)=O | C7H7NO2
